US07304156B2
reacting methyl isobutyrylacetate with 4-fluorobenzonitrile to produce methyl 2-[1-amino-1-(4-fluorophenyl)methylene]-4-methyl-3-oxopentanate; and

reactant | methyl isobutyrylacetate | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | methyl 2-[1-amino-1-(4-fluorophenyl)methylene]-4-methyl-3-oxopentanate | NC(C1=CC=C(C=C1)F)=C(C(=O)OC)C(C(C)C)=O | C14H16FNO3
